US09062092B2
Compound 48g. 5-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,3]dioxane-5-carboxylic acid
A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (398.4 mg, 0.745 mmol), 5-vinyl-[1,3]dioxane-5-carboxylic acid (117.9 mg, 0.745 mmol), tri(o-tolyl)phosphine (45.3 mg, 0.149 mmol) and triethylamine (0.32 mL, 2.235 mmol) in 1,4-dioxane (15 mL) was degassed by bubbling nitrogen through for 5 minutes then warmed to 50° C. and treated with tris(dibenzylideneacetone)dipalladium(0) (68.2 mg, 0.074 mmol). After stirring at 100° C. for 40 minutes the reaction was cooled to room temperature, filtered through a pad of Celite, which was rinsed with ethyl acetate. The volatiles were removed in vacuo to provide crude title compound as an orange foam that was used without further purification. LCMS (m/z) 612.2 [M+H], Tr=1.70 min.

reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.745 mmol, 398.4 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O | C24H32BrN5O4
reactant | 5-vinyl-[1,3]dioxane-5-carboxylic acid | 0.745 mmol, 117.9 mg | C(=C)C1(COCOC1)C(=O)O | C7H10O4
reactant | tri(o-tolyl)phosphine | 0.149 mmol, 45.3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.235 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.074 mmol, 68.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-[1,3]dioxane-5-carboxylic acid | O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(COCOC1)C(=O)O)C)C(C)C | C31H41N5O8
